US07319099B2
(a) 2-Hydroxy-5-sulfino-benzoic acid
To 317 mmol sodium sulfite in 200 ml water at RT was added dropwise over 30 min a solution of 42.3 mmol 5-chlorosulfonyl-2-hydroxy-benzoic acid in 80 ml dioxane and stirring continued for a further 30 min. 5 M aq NaOH was then added dropwise until the reaction mixture was pH 14, and the mixture was then allowed to stir at RT for a further 2 h. The mixture was then cooled to 0° C. and concentrated H2SO4 added until the reaction mixture was pH 1. Ethyl acetate was added, and the phases were separated. The organic phase was dried with Na2SO4. Evaporation in vacuo yielded the title compound.

reactant | sodium sulfite | 317 mmol | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-chlorosulfonyl-2-hydroxy-benzoic acid | 42.3 mmol | ClS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)O | C7H5ClO5S
reactant | NaOH | 5 M | [OH-].[Na+]
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | water | 200 ml | O | H2O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxy-5-sulfino-benzoic acid | OC1=C(C(=O)O)C=C(C=C1)S(=O)O | C7H6O5S
